US08487094B2
To a solution of 2-(3-(2′,4′-difluorobiphenyl-3-yl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)ethyl methanesulfonate (230 mg, 0.47 mmol) in anhydrous DMF (5 mL) was added NaN3 (92 mg, 1.42 mmol). The reaction mixture was heated to 70° C. overnight. The reaction mixture was cooled to rt and diluted with EtOAc (30 mL), and water (20 ml). The organic phase was washed with water (3×20 mL), dried over Na2SO4 and evaporated to give 6-(2-azidoethyl)-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one (100 mg, 49%).

reactant | 2-(3-(2′,4′-difluorobiphenyl-3-yl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)ethyl methanesulfonate | 0.47 mmol, 230 mg | CS(=O)(=O)OCCC1(CCN(C(O1)=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C25H23F2NO5S
reactant | NaN3 | 1.42 mmol, 92 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
product | 6-(2-azidoethyl)-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one | 100 mg, 49% | N(=[N+]=[N-])CCC1(CCN(C(O1)=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C24H20F2N4O2
